US04503073
5-Fluoro-7-(4-fluorobenzoyl)indolin-2-one
A slurry of 27.1 g (0.85 mole) of 5-fluoro-7-(4-fluorobenzoyl)-3-methylthioindolin-2-one in 500 ml of tetrahydrofuran was treated with 220 g of wet Raney nickel. The mixture was filtered and the filtrate was concentrated. The residue obtained was crystallized from acetone to give 14.8 g (64%) of the titled compound as light yellow crystals, m.p. 195°-196.5° C.

reactant | 5-fluoro-7-(4-fluorobenzoyl)-3-methylthioindolin-2-one | 0.85 mole, 27.1 g | FC=1C=C2C(C(NC2=C(C1)C(C1=CC=C(C=C1)F)=O)=O)SC | C16H11F2NO2S
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 220 g | [Ni] | Ni
product | 5-Fluoro-7-(4-fluorobenzoyl)indolin-2-one | 14.8 g, 64% | FC=1C=C2CC(NC2=C(C1)C(C1=CC=C(C=C1)F)=O)=O | C15H9F2NO2
